US09126981B2
Synthesis of (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-3)
According to the procedure described in the synthesis method of Compound III-1, 2,2-diethoxy-N-(quinolin-8-ylmethyl)ethanamine (Compound IX-3) (1.37 g, 5 mmol) was coupled with (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid (2.76 g, 6 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane:ethyl acetate=7:3 to 5:5) to obtain the title compound (0.62 g, 17%).

reactant | 2,2-diethoxy-N-(quinolin-8-ylmethyl)ethanamine | 5 mmol, 1.37 g | C(C)OC(CNCC=1C=CC=C2C=CC=NC12)OCC | C16H22N2O2
reactant | (S)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(4-tert-butoxyphenyl)propanoic acid | 6 mmol, 2.76 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)OC(C)(C)C | C28H29NO5
product | (S)-(9H-fluoren-9-yl)methyl 3-(4-tert-butoxyphenyl)-1-((2,2-diethoxyethyl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 0.62 g, 17% | C(C)(C)(C)OC1=CC=C(C=C1)C[C@@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)CC(OCC)OCC)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C44H49N3O6
